US08071584B2
Methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-ylmethyl)-1H-indole-7-carboxylate
To a solution of tetrahydro-thiopyran-4-carbaldehyde (1.3 g, 9.84 mmol) in DCM (20 mL) was added TMSOTf (3.5 mL, 19.7 mmol) at 0° C. To this mixture 5-Bromo-1H-indole-7-carboxylic acid methyl ester (2.5 g, 9.84 mmol) was added. After 2 hours, Et3SiH (6.2 mL, 39.4 mmol) was added at 0° C., and stirring continued for 18 hours. The reaction mixture was quenched with sodium bicarbone solution and extracted with DCM. The combined organic layers were dried (MgSO4), concentrated, and purified by column chromatography on silica gel, giving 1.6 g (44%) of the title compound.

reactant | tetrahydro-thiopyran-4-carbaldehyde | 9.84 mmol, 1.3 g | S1CCC(CC1)C=O | C6H10OS
reactant | TMSOTf | 19.7 mmol, 3.5 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 5-Bromo-1H-indole-7-carboxylic acid methyl ester | 9.84 mmol, 2.5 g | COC(=O)C=1C=C(C=C2C=CNC12)Br | C10H8BrNO2
reactant | Et3SiH | 39.4 mmol, 6.2 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-ylmethyl)-1H-indole-7-carboxylate | 1.6 g, 44% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)CC1CCSCC1 | C16H18BrNO2S
